US08278335B2
Step 2. 4-(1-Hydroxy-1-methylethyl)benzaldehyde
2-[4-(Hydroxymethyl)phenyl]propan-2-ol (1.0 g, 6 mmol) was dissolved in the mixture of ethyl acetate (10 mL) and dichloromethane (5 mL). To the solution, MnO2 (2.6 g, 30 mmol) was added, and the mixture was stirred overnight at room temperature. The solid was filtered off and washed with ethyl acetate. The combined organic phases were concentrated to afford the title compound. 1H NMR (400 MHz CDCl3): δ 10.00 (s, 1H), 7.80 (d, 2H), 7.60 (d, 2H), 1.60 (s, 6H).

reactant | 2-[4-(Hydroxymethyl)phenyl]propan-2-ol | 6 mmol, 1.0 g | OCC1=CC=C(C=C1)C(C)(C)O | C10H14O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | MnO2 | 30 mmol, 2.6 g | O=[Mn]=O
product | 4-(1-Hydroxy-1-methylethyl)benzaldehyde | OC(C)(C)C1=CC=C(C=O)C=C1 | C10H12O2
